US07767671B2
A mixture of 222.5 mg (0.5 mmol) of 7-(2-chloroethoxy)-6-methoxy-4-(4-phenoxyphenylamino)quinolin-3-carbonitrile, 841.4 mg (5.0 mmol) of 4-piperidinopiperidine and 49.5 mg (0.33 mmol) of sodium iodide in 6.0 mL of ethylene glycol dimethyl ether are heated in a sealed tube at 135-140° C. for 17 hours to yield the crude product. Solvents are removed in vacuo. Purification of the oily residue is carried out by preparative thin layer chromatography (eluting with 85:15 dichloromethane/methanol) to provide 137.7 mg of 742-[1,4′]bipiperidinyl-1′-yl-ethoxy)-6-methoxy-4-(4-phenoxy-phenylamino)-quinoline-3-carbonitrile as a light yellow solid, mp 141° C. (decompose).

reactant | 7-(2-chloroethoxy)-6-methoxy-4-(4-phenoxyphenylamino)quinolin-3-carbonitrile | 0.5 mmol, 222.5 mg | ClCCOC1=C(C=C2C(=C(C=NC2=C1)C#N)NC1=CC=C(C=C1)OC1=CC=CC=C1)OC | C25H20ClN3O3
reactant | 4-piperidinopiperidine | 5.0 mmol, 841.4 mg | N1(CCCCC1)C1CCNCC1 | C10H20N2
reactant | sodium iodide | 0.33 mmol, 49.5 mg | [I-].[Na+]
solvent | ethylene glycol dimethyl ether | 6.0 mL | COCCOC | C4H10O2
product | 6-methoxy-4-(4-phenoxy-phenylamino)-quinoline-3-carbonitrile | COC=1C=C2C(=C(C=NC2=CC1)C#N)NC1=CC=C(C=C1)OC1=CC=CC=C1 | C23H17N3O2
